US05084463
Step 1) Preparation of 2-[N-[3-(4-Nitrophenoxy)propyl]methylamino methyl]quinoline
To a stirred suspension of 2-(methylaminomethyl)quinoline, prepared by the procedure of Example 3, Step 1, (3.67 g, 21.35 mmol), sodium iodide (2.78 g, 18.56 mmol), and potassium carbonate (3.08 g, 138.21 mmol) in acetonitrile (80 mL) was added 1-(4-nitrophenoxy)-3-chloropropane (4.00 g, 18.56 mmol). The mixture was stirred at 80° C. overnight, concentrated and partitioned between 10% K2CO3 and ethyl acetate. The organic phase was washed with brine, dried (MgSO4), and concentrated to afford an oil. The product was purified by HPLC (10% methanol/dichloromethane) to afford 2.34 g (36%) of pure product as a yellow oil.

reactant | 2-(methylaminomethyl)quinoline | CNCC1=NC2=CC=CC=C2C=C1 | C11H12N2
reactant | sodium iodide | 21.35 mmol, 3.67 g | [I-].[Na+]
reactant | potassium carbonate | 138.21 mmol, 3.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-nitrophenoxy)-3-chloropropane | 18.56 mmol, 4.00 g | [N+](=O)([O-])C1=CC=C(OCCCCl)C=C1 | C9H10ClNO3
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2-[N-[3-(4-Nitrophenoxy)propyl]methylamino methyl]quinoline | 2.34 g, 36% | [N+](=O)([O-])C1=CC=C(OCCCN(C)CC2=NC3=CC=CC=C3C=C2)C=C1 | C20H21N3O3
